### PR TITLE
[Merged by Bors] - feat port: Order.Extension.Linear 

### PR DESCRIPTION
**Pull request by xroblot**
Line 59. I needed to add an explicit
`haveI : IsPartialOrder α s := hs₁`
otherwise the necessary instances would be missing later on (the mathlib3 file has a `resetI` to do this). I am not sure if it is the right way to fix that...

### CODE REVIEW

File: Mathlib/Order/Extension/Linear.lean [hunk 1]
```diff
@@ -0,0 +1,105 @@
...
+
+open Set Classical
+
+open Classical
+
+/-- Any partial order can be extended to a linear order.
+-/
+theorem extend_partial_order {α : Type u} (r : α → α → Prop) [IsPartialOrder α r] :
+    ∃ (s : α → α → Prop)(_ : IsLinearOrder α s), r ≤ s :=
+by
```
Comment (dupuisf) [inline Mathlib/Order/Extension/Linear.lean:32]:
```suggestion
    ∃ (s : α → α → Prop) (_ : IsLinearOrder α s), r ≤ s := by
```

File: Mathlib/Order/Extension/Linear.lean [hunk 2]
```diff
@@ -0,0 +1,105 @@
...
+  let S := { s | IsPartialOrder α s }
+  have hS : ∀ c, c ⊆ S → IsChain (· ≤ ·) c → ∀ y ∈ c, ∃ ub ∈ S, ∀ z ∈ c, z ≤ ub :=
+    by
```
Comment (dupuisf) [inline Mathlib/Order/Extension/Linear.lean:35]:
```suggestion
  have hS : ∀ c, c ⊆ S → IsChain (· ≤ ·) c → ∀ y ∈ c, ∃ ub ∈ S, ∀ z ∈ c, z ≤ ub := by
```

**Review by dupuisf — COMMENTED** [review]
Thanks!

bors d+
